### PR TITLE
[Merged by Bors] - feat: behavior of AnalyticAt.order under addition

### PR DESCRIPTION
**Pull request by kebekus**
Deliver on one of the open TODOs and establish the behavior of `AnalyticAt.order` under addition. Add missing `fun_prop` lemma on the stability of analytic functions under `HPow.hPow`. Generalize the statement on the behavior of `AnalyticAt.order` under multiplication to scalar multiplication.

This material is used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Analytic/Constructions.lean [hunk 1]
```diff
@@ -724,6 +724,15 @@ lemma AnalyticOnNhd.pow {f : E → A} {s : Set E} (hf : AnalyticOnNhd 𝕜 f s)
     AnalyticOnNhd 𝕜 (fun x ↦ f x ^ n) s :=
   fun _ m ↦ (hf _ m).pow n
 
+/-- Powers of analytic functions (into a normed `𝕜`-algebra) are analytic. -/
+@[fun_prop]
+lemma AnalyticAt.hpow {f : E → A} {z₀ : E} (hf : AnalyticAt 𝕜 f z₀) (n : ℕ) :
+    AnalyticAt 𝕜 (HPow.hPow f n) z₀ := by apply hf.pow
```
Comment (girving) [inline Mathlib/Analysis/Analytic/Constructions.lean:730]: Is the `pow` version not enough?

File: Mathlib/Analysis/Analytic/Order.lean [hunk 2]
```diff
@@ -70,6 +71,25 @@ lemma order_ne_top_iff (hf : AnalyticAt 𝕜 f z₀) :
 @[deprecated (since := "2025-02-03")]
 alias order_neq_top_iff := order_ne_top_iff
 
+/-- If two functions agree in a neighborhood of `z₀`, then their orders at `z₀` agree. -/
+theorem order_congr (hf₁ : AnalyticAt 𝕜 f₁ z₀) (h : f₁ =ᶠ[𝓝 z₀] f₂) :
+    (hf₁.congr h).order = hf₁.order := by
+  -- Trivial case: f₁ vanishes identially around z₀
+  by_cases h₁f₁ : hf₁.order = ⊤
```
Comment (girving) [inline Mathlib/Analysis/Analytic/Order.lean:78]: I feel like you shouldn't need this special case. What's the core reason you do?

**Comment by girving** [comment]
It mostly looks good, except that it feels like a lot of the proofs could be simplified by working more natively in ENat. Possibly that's wrong, but I'm curious to know why if so.

File: Mathlib/Analysis/Analytic/Constructions.lean (hunk 1 above)
Comment (kebekus) [reply Mathlib/Analysis/Analytic/Constructions.lean:730]: @girving Thanks for taking the time to look at my PR. It seems that the `fun_prop` tactic needs the lemma on `hpow`, or else it won't be able to prove analyticity even in the simplest cases. The most elementary example is perhaps this, which fails if `AnalyticAt.hpow` is not available.
```
lemma analyticAt_centeredMonomial (z₀ : 𝕜) (n : ℕ) :
    AnalyticAt 𝕜 ((· - z₀) ^ n) z₀ := by fun_prop
```

File: Mathlib/Analysis/Analytic/Order.lean (hunk 2 above)
Comment (kebekus) [reply Mathlib/Analysis/Analytic/Order.lean:78]: I am unsure if I understand your comment. When you say "special case", are you referring to the theorem `order_congr` or to the fact that I split the proof into cases? Let me answer to both possibilities.

#### Justification of the theorem

I use the theorem several times in the sequel, for instance when proving that adding a locally vanishing function does not change the order. I use the analogous theorem for meromorphic functions a lot in the (upcoming) discussion on continuous extension, and I feel that having a uniform API for the two cases is a benefit.

#### Justification for splitting the theorem into two cases

I split the theorem into two cases because that worked for me, and it reflects the definition of `AnalyticAt.order` (which also considers cases). I have tried for a short while to find a uniform proof but failed. This might be 100% due to the fact that I am a newcomer and do not understand the language well enough. I would be grateful for any suggestions.

**Comment by kebekus** [comment]
@girving Thanks for your comment. As a newcomer, I am unsure what you mean by "working more natively in ENat". Can you please help me with more explanation, or perhaps a concrete example of what you have in mind? -- Thanks!

**Comment by loefflerd** [comment]
(one can prove `order_ge_nat_iff` as follows:
```
lemma order_ge_nat_iff (hf : AnalyticAt 𝕜 f z₀) {n : ℕ} : 
    n ≤ hf.order ↔ ∃ g, AnalyticAt 𝕜 g z₀ ∧ ∀ᶠ z in 𝓝 z₀, f z = (z - z₀) ^ n • g z := by
  unfold order
  split_ifs with h
  · simpa using ⟨0, analyticAt_const .., by simpa⟩
  · let m := (hf.exists_eventuallyEq_pow_smul_nonzero_iff.mpr h).choose
    obtain ⟨g, hg, hg_ne, hm⟩ : ∃ g, AnalyticAt 𝕜 g z₀ ∧ g z₀ ≠ 0 ∧ 
        ∀ᶠ z in 𝓝 z₀, f z = (z - z₀) ^ m • g z :=
      (hf.exists_eventuallyEq_pow_smul_nonzero_iff.mpr h).choose_spec
    rw [ENat.coe_le_coe]
    refine ⟨fun hmn ↦ ⟨fun z ↦ (z - z₀) ^ (m - n) • g z, by fun_prop, ?_⟩, fun ⟨h, hh, hfh⟩ ↦ ?_⟩
    · filter_upwards [hm] with z hz using by rwa [← mul_smul, ← pow_add, Nat.add_sub_of_le hmn]
    · contrapose! hg_ne
      have : ContinuousAt (fun z ↦ (z - z₀) ^ (n - m) • h z) z₀ := by fun_prop
      rw [tendsto_nhds_unique_of_eventuallyEq (l := 𝓝[≠] z₀)
        hg.continuousAt.continuousWithinAt this.continuousWithinAt ?_]
      · simp [m, Nat.sub_ne_zero_of_lt hg_ne]
      · filter_upwards [self_mem_nhdsWithin, hm.filter_mono nhdsWithin_le_nhds, 
          hfh.filter_mono nhdsWithin_le_nhds] with z hz hf' hf''
        rw [← inv_smul_eq_iff₀ (pow_ne_zero _ <| sub_ne_zero_of_ne hz), hf'', smul_comm, 
          ← mul_smul] at hf'
        rw [pow_sub₀ _ (sub_ne_zero_of_ne hz) (by omega), ← hf']
```

**Comment by loefflerd** [comment]
I had a go at reworking some of the code here using this idea, and it does lead to substantial simplifications, but needs a few additions to the `ENat` API to work smoothly. I made another PR #24165 for the WithTop / ENat lemmas.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by kebekus** [comment]
@loefflerd Now that your PRs are merged, I could go ahead and see how to implement your suggestions. I will probably need a few days, so I added the label 'awaiting author' for now. Thanks again!

**Comment by kebekus** [comment]
@loefflerd I probably did not read your comment carefully enough, sorry. When you wrote 

> I had a go at reworking some of the code here using this idea, and it does lead to substantial simplifications, but needs a few additions to the ENat API to work smoothly. I made another PR https://github.com/leanprover-community/mathlib4/pull/24165 for the WithTop / ENat lemmas.

does that imply that you have code up your sleeve that I should be waiting for? Or do you prefer me to go ahead and make use of your PRs myself? Either way is fine...

**Comment by loefflerd** [comment]
Dear Stefan: thanks for reminding me! I do indeed have some code lying around (which I had forgotten about) which is an incomplete attempt to work out the behaviour of `AnalyticAt.order` under addition using the new `natCast_le_order_iff` lemma I added recently. Do I have your permission to push it to your PR branch here?

**Comment by kebekus** [comment]
@loefflerd Please go ahead with my blessings. I appreciate your efforts. Thanks!

File: Mathlib/Analysis/Analytic/Order.lean (hunk 2 above)
Comment (loefflerd) [reply Mathlib/Analysis/Analytic/Order.lean]: I am marking this conversation as "resolved", since the version I just pushed removes the case distinction in this lemma.

**Comment by loefflerd** [comment]
The version I have just pushed is my attempt to pursue @girving's idea of "working more natively in ENat". Using the lemmas added in #24165 and #24256, I was able to avoid special-casing `⊤` in `AnalyticAt.order_congr` and in `AnalyticAt.order_add` (although I did not manage to get rid of it in `order_smul`).

**Comment by kebekus** [comment]
@loefflerd Your contribution looks perfect to me, thanks. I guess the task is now to find a third person who reviews and approves the PR?

**Comment by loefflerd** [comment]
In cases like this, where a reviewer ends up contributing substantial code to a PR, it’s counted as “reviewed” if the original author is happy with the reviewer’s contributions and vice versa. (Of course the maintainers will have the final say as always).

**Comment by kebekus** [comment]
Ok. In this case, the original author is definitively happy with the reviewer's contributions, so we are clear to go ahead.

**Comment by loefflerd** [comment]
maintainer merge

**Comment by sgouezel** [comment]
I added a comment on the `HPow` lemmas above. Since it may be hard to spot in the discussion, here it is again:

I just tried it, and everything compiles fine without these `hpow` lemmas, as far as I can tell. Can you try removing them? Normally, one shouldn't ever write `HPow.hPow f n`, it's supposed to be exactly the same as `f ^ n`.

**Comment by kebekus** [comment]
@sgouezel You are right. First, I missed your comment in the discussion. Sorry! Second, I confirm that the `hpow` lemmas are not needed. I am, honestly, quite confused because I remember that I needed them for `fun_prop` to work as expected -- it took me a long time to figure out this solution to my `fun_prop` problems. Perhaps some internals of Mathlib/fun_prop have changed meanwhile? Who knows.

No matter what, I removed the code and mark the conversation as resolved. Thanks for the reminder.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

**Comment by kebekus** [comment]
Thanks to everyone involved for looking at this.
